US05912247
A mixture of 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1S,4R)-(4-hydroxycyclopent-2-en-1-yl)oxy]quinazoline (1.30 g), a solution of osmium tetroxide in t-butanol (osmium tetroxide 252 mg/t-butanol 18.1 g) (532 mg) and 4-methylmorpholine N-oxide (375 mg) in water (3 ml)--acetone (25 ml) is stirred at room temperature for 17 hours. Acetone is distilled off from the reaction mixture under reduced pressure, and to the resultant is added ethyl acetate, and the mixture is washed with 10% aqueous sodium sulfite solution and water. The ethyl acetate solution is dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure, and the residue is purified by medium pressure liquid column chromatography (eluent, chloroform:methanol=50:1, 10:1, v/v) to give 2-[4-(benzyloxycarbonyl) piperazin-1-yl]-4-[(1S,2S,3S,4R)-(2,3,4-trihydroxycyclopentan-1-yl)oxy]quinazoline (1.05 mg) as foam.

reactant | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1S,4R)-(4-hydroxycyclopent-2-en-1-yl)oxy]quinazoline | 1.30 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@@H]1C=C[C@@H](C1)O | C25H26N4O4
reactant | 4-methylmorpholine N-oxide | 375 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 25 ml | CC(=O)C | C3H6O
reactant | t-butanol | 252 mg | C(C)(C)(C)O | C4H10O
solvent | water | 3 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2-[4-(benzyloxycarbonyl) piperazin-1-yl]-4-[(1S,2S,3S,4R)-(2,3,4-trihydroxycyclopentan-1-yl)oxy]quinazoline | 1.05 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@@H]1[C@H]([C@H]([C@@H](C1)O)O)O | C25H28N4O6
